US03983133
4 parts of m-chloro-α-(2-imidazolin-2-ylaminomethyl)-benzyl alcohol are added portionwise to 20 parts of cooled (ice-bath) sulfuric acid solution 80%. Upon completion, the whole is stirred for 2 hours at room temperature. The reaction mixture is poured onto crushed ice and the whole is filtered over diatomaceous silica. The filtrate is alkalized with ammonium hydroxide solution at room temperature (cooling is necessary) and the product in base form is extracted with chloroform. The latter is dried and evaporated. The residue is converted into the hydrochloride salt in 2-propanol, yielding 5-(m-chlorophenyl)-2,3,5,6-tetrahydro-1H-imidazo[1,2-a]imidazole hydrochloride; m.p. 249.8°C.

reactant | m-chloro-α-(2-imidazolin-2-ylaminomethyl)-benzyl alcohol | ClC=1C=C(C(CNC=2NCCN2)O)C=CC1 | C11H14ClN3O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 5-(m-chlorophenyl)-2,3,5,6-tetrahydro-1H-imidazo[1,2-a]imidazole hydrochloride | Cl.ClC=1C=C(C=CC1)C1CN=C2N1CCN2 | InChI=1S/C11H12ClN3.ClH/c12-9-3-1-2-8(6-9)10-7-14-11-13-4-5-15(10)11;/h1-3,6,10H,4-5,7H2,(H,13,14);1H
